US05032216
9. Vinyl Chloride/Vinyl Acetate Copolymer
Solvents: Chloroform, chlorobenzene, pyridine, dioxane, cyclohexanone, ethyl acetate.

reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Vinyl Chloride Vinyl Acetate | C(=C)Cl.C(C)(=O)OC=C | InChI=1S/C4H6O2.C2H3Cl/c1-3-6-4(2)5;1-2-3/h3H,1H2,2H3;2H,1H2
